US07622466B2
c) 5-(3-Piperidin-1-yl-propoxy)-1H-pyrrolo[2,3-b]pyridine-2-carboxylic Acid Hydrochloride
To the solution of 0.18 g (0.54 mmol) 5-(3-piperidin-1-yl-propoxy)-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid ethyl ester in 1.2 ml dioxan, 0.54 ml (0.64 g) concentrated hydrochloric acid were added. The reaction mixture was heated under reflux for 18 h, evaporated and dried under high vacuum over phosphorus pentoxide to give 0.18 g (100%) of the compound as a light brown solid.

reactant | 5-(3-piperidin-1-yl-propoxy)-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid ethyl ester | 0.54 mmol, 0.18 g | C(C)OC(=O)C1=CC=2C(=NC=C(C2)OCCCN2CCCCC2)N1 | C18H25N3O3
reactant | hydrochloric acid | 0.54 ml, 0.64 g | Cl | ClH
solvent | dioxan | 1.2 ml | O1CCOCC1 | C4H8O2
product | 5-(3-Piperidin-1-yl-propoxy)-1H-pyrrolo[2,3-b]pyridine-2-carboxylic Acid Hydrochloride | 0.18 g, 100% | Cl.N1(CCCCC1)CCCOC=1C=C2C(=NC1)NC(=C2)C(=O)O | InChI=1S/C16H21N3O3.ClH/c20-16(21)14-10-12-9-13(11-17-15(12)18-14)22-8-4-7-19-5-2-1-3-6-19;/h9-11H,1-8H2,(H,17,18)(H,20,21);1H
